US04159986
1.60 gm of 5-(m-trifluoromethylbenzoyl)-thiophene-2-acetic acid were dissolved in 30 cc of methanol and the solution was saturated with gaseous hydrochloric acid and refluxed for 1 hour. The solvent was then distilled off under reduced pressure and the residue was taken up in a minimum of isopropyl ether. An equal volume of petroleum ether was added to the solution. Crystallization was induced by scratching and the solution was iced for 12 hours. The crystals were separated, washed with petroleum ether and dried to obtain 1.35 gm of methyl 5-(m-trifluoromethyl benzoyl)-thiophene-2-acetate.

reactant | 5-(m-trifluoromethylbenzoyl)-thiophene-2-acetic acid | 1.60 gm | FC(C=1C=C(C(=O)C2=CC=C(S2)CC(=O)O)C=CC1)(F)F | C14H9F3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 30 cc | CO | CH4O
product | methyl 5-(m-trifluoromethyl benzoyl)-thiophene-2-acetate | 1.35 gm | FC(C=1C=C(C(=O)C2=CC=C(S2)CC(=O)OC)C=CC1)(F)F | C15H11F3O3S
